US07678820B2
To a suspension of 60% NaH (68.0 mg) in DMF was added cyclopropylmethanol (99 mg) at 0° C., followed by stirring at the same temperature for 15 min, and then 5-{5-[4-fluoro-3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}-1H-benzimidazole (120 mg) was added thereto. The reaction mixture was stirred at room temperature for 2 hours, and then added with water. It was extracted with EtOAc, and the organic layer was concentrated. The residue was purified by silica gel column chromatography (CH3OH/chloroform=0 to 5%) to obtain an oily substance. A solution of the oily substance in chloroform-CH3OH was added with a 4M HCl/dioxane solution (0.5 ml), and concentrated to obtain 5-{5-[4-(cyclopropylmethoxy)-3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}-1H-benzimidazole hydrochloride (20 mg) as a white solid.

reactant | NaH | 68.0 mg | [H-].[Na+]
reactant | cyclopropylmethanol | 99 mg | C1(CC1)CO | C4H8O
reactant | 5-{5-[4-fluoro-3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}-1H-benzimidazole | 120 mg | FC1=C(C=C(C=C1)C1=NC(=NO1)C1=CC2=C(NC=N2)C=C1)C(F)(F)F | C16H8F4N4O
reactant | HCl dioxane | 4M, 0.5 ml | Cl.O1CCOCC1
solvent | DMF | CN(C)C=O | C3H7NO
solvent | chloroform CH3OH | C(Cl)(Cl)Cl.CO
solvent | water | O | H2O
product | 5-{5-[4-(cyclopropylmethoxy)-3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}-1H-benzimidazole hydrochloride | 20 mg | Cl.C1(CC1)COC1=C(C=C(C=C1)C1=NC(=NO1)C1=CC2=C(NC=N2)C=C1)C(F)(F)F | InChI=1S/C20H15F3N4O2.ClH/c21-20(22,23)14-7-13(4-6-17(14)28-9-11-1-2-11)19-26-18(27-29-19)12-3-5-15-16(8-12)25-10-24-15;/h3-8,10-11H,1-2,9H2,(H,24,25);1H
